US05006515
Dimethyl 3-(1-naphthyl)-2-isoxazolin-5-ylphosphonate
Preparation is carried out in analogy to Example 1 from 31.2 g (0.2 mol) of 1-naphthaldoxime, 29.4 g (0.22 mol) of N-chlorosuccinimide, 29.2 ml (0.22 mol) of dimethyl vinylphosphonate and 30.6 ml (0.22 mol) of triethylamine, with 56 g of oily compound being obtained.

reactant | 1-naphthaldoxime | 0.2 mol, 31.2 g | C1(=CC=CC2=CC=CC=C12)C=NO | C11H9NO
reactant | N-chlorosuccinimide | 0.22 mol, 29.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl vinylphosphonate | 0.22 mol, 29.2 ml | C(=C)P(OC)(OC)=O | C4H9O3P
reactant | triethylamine | 0.22 mol, 30.6 ml | C(C)N(CC)CC | C6H15N
product | Dimethyl 3-(1-naphthyl)-2-isoxazolin-5-ylphosphonate | C1(=CC=CC2=CC=CC=C12)C1=NOC(C1)P(OC)(OC)=O | C15H16NO4P
